US08981111B2
To a solution of 4-methyl-4H-1,2,4-triazole-3-carbonitrile (70%, 4.27 g, 27.64 mmol, 1 eq.) in 200 ml of THF cooled to −40° C. was added TMSCl (6.0 g, 55.29 mmol, 2.0 eq.) followed by phenylmagnesium bromide (2.8 M, 14.81 ml, 41.47 mmol, 1.4 eq.). The reaction was stirred at −40° C. for 1 h and quenched with 1N HCl. EtOAc was added and the layers separated. The aqueous layer was extracted with EtOAc and the organics combined, dried over MgSO4 and concentrated. The residue was triturated in EtOAc and the solid removed by filtration. The crude was purified by chromatography on silica gel to give (4-methyl-4H-1,2,4-triazol-3-yl)(phenyl)methanone (2.45 g, 48% yield) as a yellow solid.

reactant | 4-methyl-4H-1,2,4-triazole-3-carbonitrile | 27.64 mmol, 4.27 g, 1 eq. | CN1C(=NN=C1)C#N | C4H4N4
reactant | TMSCl | 55.29 mmol, 6.0 g, 2.0 eq. | C[Si](C)(C)Cl | C3H9ClSi
reactant | phenylmagnesium bromide | 41.47 mmol, 2.8 M, 14.81 ml, 1.4 eq. | C1(=CC=CC=C1)[Mg]Br
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | (4-methyl-4H-1,2,4-triazol-3-yl)(phenyl)methanone | 2.45 g, 48% yield | CN1C(=NN=C1)C(=O)C1=CC=CC=C1 | C10H9N3O
